US06313117B1
(R)-2-Cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyric acid (0.20 g, 0.71 mmol) was dissolved in 6 mL of DMF and cooled to 0° C. with an ice-water bath. EDC (0.18 g, 0.92 mmol) and 1-hydroxybenzotriazole (0.12 g, 0.92 mmol) were added and stirring, under argon, continued for 25 min. To the cold solution was added the HCl salt of O-benzyl-L-serineamide (0.16 g, 0.71 mmol), followed by addition of N-methylmorpholine (0.23 mL, 2.10 mmol) and stirring was continued overnight (16 h). The solution was diluted with 100 mL of EtOAc and washed with a 1.0 M solution of HCl (3×10 mL), a saturated solution of NaHCO3 (3×10 mL), water (100 mL) then with brine (100 mL). The organic layer was dried over MgSO4, filtered and concentrated by rotary evaporation to give (0.34 g, 106%) of the crude product which was chromatographed (SiO2, 2% MeOH in EtOAc) to give N-(2-Benzyloxy-1-carbamoyl-ethyl)-2-cyclohexylmethyl-4-morpholin-4-yl-oxo-butyramide (0.22 g, 69%).

reactant | (R)-2-Cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyric acid | 0.71 mmol, 0.20 g | C1(CCCCC1)C[C@@H](C(=O)O)CC(=O)N1CCOCC1 | C15H25NO4
reactant | EDC | 0.92 mmol, 0.18 g
reactant | 1-hydroxybenzotriazole | 0.92 mmol, 0.12 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | HCl | Cl | ClH
reactant | O-benzyl-L-serineamide | 0.71 mmol, 0.16 g | C(C1=CC=CC=C1)OC[C@H](N)C(=O)N | C10H14N2O2
reactant | N-methylmorpholine | 2.10 mmol, 0.23 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-(2-Benzyloxy-1-carbamoyl-ethyl)-2-cyclohexylmethyl-4-morpholin-4-yl-oxo-butyramide | 0.22 g, 69% | C(C1=CC=CC=C1)OCC(C(N)=O)NC(C(C(CN1CCOCC1)=O)CC1CCCCC1)=O | C25H37N3O5
